US07279481B2
5-(4-{2-[3-(5,6-Dihydro-7H-imidazo[2,1-c][1,2,4]triazol-7-yl)phenyl]ethyl}-1-piperazinyl)-2-methylquinoline (E170)
5-{4-[2-(3-Iodophenyl)ethyl]-1-piperazinyl}-2-methylquinoline (59 mg), 5,6-dihydro-1H-imidazo[2,1-c][1,2,4]triazole (50 mg, 3.5 equiv.), palladium(II)acetate (9 mg, 0.3 equiv.) 2-(dicyclohexylphosphino)-2′-methylbiphenyl (42 mg, 0.9 equiv.) and potassium phosphate (97 mg, 3.5 equiv.) were suspended in DME and stirred at 150 □C under microwave irradiation for 2 h. The mixture was cooled to room temperature, diluted with methanol and loaded onto an ion-exchange cartridge (SCX-2), which was eluted with methanol followed by ammonia-methanol solution (1M). The combined basic fractions were concentrated under vacuum and purified using column chromatography [SiO2; DCM-MeOH (90:10)] to afford the title compound as colourless solid (13 mg, 26% yield).

reactant | 5-{4-[2-(3-Iodophenyl)ethyl]-1-piperazinyl}-2-methylquinoline | 59 mg | IC=1C=C(C=CC1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C22H24IN3
reactant | 5,6-dihydro-1H-imidazo[2,1-c][1,2,4]triazole | 50 mg, 3.5 equiv. | N1N=CN2C1=NCC2 | C4H6N4
reactant | potassium phosphate | 97 mg, 3.5 equiv. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | COCCOC | C4H10O2
solvent | methanol | CO | CH4O
catalyst | palladium(II)acetate | 9 mg, 0.3 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(4-{2-[3-(5,6-Dihydro-7H-imidazo[2,1-c][1,2,4]triazol-7-yl)phenyl]ethyl}-1-piperazinyl)-2-methylquinoline | 13 mg, 26% yield | N=1N=CN2C1N(CC2)C=2C=C(C=CC2)CCN2CCN(CC2)C2=C1C=CC(=NC1=CC=C2)C | C26H29N7
